US06969710B2
4-Chloro-3-nitro-N-phenyl-benzenesulfonamide (Scheme 5, Method 5)
Two portions of 4-Chloro-3-nitrobenzenesulfonamide (1.73 g, 6.78 mmol) were dissolved in CH2Cl2 (7.0 mL) in reaction flasks. Aniline (757 mg, 8.13 mmol) was added drop-wise at room temperature, followed by slow additions of pyridine (2.0 mL). After 16 h of continued stirring, the reaction mixtures were diluted with ethyl acetate (50 mL) and washed with 1 M HCl (3×50 mL). The organic phases were dried (MgSO4) and evaporated to brown solids, which upon re-crystallization from ethanol/water gave off-white solid of the product 2.04 g (96%): 1H NMR (CDCl3, 400 MHz) δ 8.24 (d, 1H), 7.80 (dd, 1H), 7.61 (d, 1H), 7.30 (t, 2H), 7.20 (t, 1H), 7.09 (d, 2H), 6.79 (bs, 1H); MS (CI) 310.8 (M−H)−; Purity (HPLC, Hichrom 200×4.6 mm I.D.)>98%.

reactant | 4-Chloro-3-nitrobenzenesulfonamide | 6.78 mmol, 1.73 g | ClC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5ClN2O4S
reactant | Aniline | 8.13 mmol, 757 mg | NC1=CC=CC=C1 | C6H7N
reactant | pyridine | 2.0 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 7.0 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-Chloro-3-nitro-N-phenyl-benzenesulfonamide | 2.04 g, 96% | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=CC=CC=C1)[N+](=O)[O-] | C12H9ClN2O4S
